US04735966
A mixture of 34.0 g of cyclohexadiene and 35.0 g of dichloroacetyl chloride in 300 ml of diethyl ether under nitrogen was refluxed while adding 31.5 g of triethylamine dropwise over a period of 3 hours. The mixture was then stirred at room temperature for 20 hours and filtered. The filtrate was washed with brine, 1N hydrochloric acid, saturated sodium bicarbonate and then dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure and the residue distilled to give 32 g of 8,8-dichlorobicyclo[4.2.0]oct-2-en-7-one.

reactant | cyclohexadiene | 34.0 g | C1=CC=CCC1 | C6H8
reactant | dichloroacetyl chloride | 35.0 g | ClC(C(=O)Cl)Cl | C2HCl3O
reactant | triethylamine | 31.5 g | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | 8,8-dichlorobicyclo[4.2.0]oct-2-en-7-one | 32 g | ClC1(C(C2CCC=CC12)=O)Cl | C8H8Cl2O
